US08217177B2
2-(3-methoxyquinolin-6-yl)acetic acid hydrochloride
tert-Butyl 2-(3-methoxyquinolin-6-yl)acetate was saponified in a method similar to 2-(3-methoxyquinolin-6-yl)propanoic acid hydrochloride.

reactant | tert-Butyl 2-(3-methoxyquinolin-6-yl)acetate | COC=1C=NC2=CC=C(C=C2C1)CC(=O)OC(C)(C)C | C16H19NO3
reactant | 2-(3-methoxyquinolin-6-yl)propanoic acid hydrochloride | Cl.COC=1C=NC2=CC=C(C=C2C1)C(C(=O)O)C
product | 2-(3-methoxyquinolin-6-yl)acetic acid hydrochloride | Cl.COC=1C=NC2=CC=C(C=C2C1)CC(=O)O | InChI=1S/C12H11NO3.ClH/c1-16-10-6-9-4-8(5-12(14)15)2-3-11(9)13-7-10;/h2-4,6-7H,5H2,1H3,(H,14,15);1H
